US07968556B2
SYNTHESIS OF 9-(2,3-DIHYDRO-1H-INDEN-1-YL)-2-(3-HYDROXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE
Methyl 9-(2,3-dihydro-1H-inden-1-yl)-8-oxo-2-(3-(triisopropylsilyloxy)phenyl)-8,9-dihydro-7H-purine-6-carboxylate. Methyl 5-amino-6-(2,3-dihydro-1H-inden-1-ylamino)-2-(3-(triisopropylsilyloxy)phenyl)pyrimidine-4-carboxylate (0.192 g, 0.360 mmol) and 1,1′-1,1′-carbonyldiimidazole (0.467 g, 2.88 mmol) in dichloromethane (15 mL) were reacted according to General Procedure F and purified using biotage chromatography (0 to 45% EtOAc in hexanes) to afford the title compound (0.171 g, 85%). 1H NMR (400 MHz, DMSO-d6) δ 11.85 (s, 1H), 7.76 (d, J=7.99, 1H), 7.64 (s, 1H), 7.36 (d, J=7.59, 1H), 7.32 (t, J=7.99, 1H), 7.24 (m, 1H), 7.12 (s, 1H), 7.11 (s, 1H), 6.92 (dd, J=7.99, 2.39, 1H), 6.05 (t, J=7.19, 1H), 3.94 (s, 3H), 3.33 (s, 9H), 3.06 (m, 1H), 2.67 (m, 1H), 1.23 (m, 3H), 1.08 (m, 18H).

reactant | Methyl 9-(2,3-dihydro-1H-inden-1-yl)-8-oxo-2-(3-(triisopropylsilyloxy)phenyl)-8,9-dihydro-7H-purine-6-carboxylate | C1(CCC2=CC=CC=C12)N1C2=NC(=NC(=C2NC1=O)C(=O)OC)C1=CC(=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C | C31H38N4O4Si
reactant | Methyl 5-amino-6-(2,3-dihydro-1H-inden-1-ylamino)-2-(3-(triisopropylsilyloxy)phenyl)pyrimidine-4-carboxylate | 0.360 mmol, 0.192 g | NC=1C(=NC(=NC1NC1CCC2=CC=CC=C12)C1=CC(=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C)C(=O)OC | C30H40N4O3Si
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 9-(2,3-DIHYDRO-1H-INDEN-1-YL)-2-(3-HYDROXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE | 0.171 g, 85% | C1(CCC2=CC=CC=C12)N1C2=NC(=NC(=C2NC1=O)C(=O)N)C1=CC(=CC=C1)O | C21H17N5O3
